US05026707
A mixture of 30.0 g (0.176 mol) of o-chlorophenylacetic acid and 40 ml of thionyl chloride was stirred for 18 hours. The volatiles then were removed in vacuo to give 32.76 g (99.0%) of o-chlorophenylacetyl chloride as a transparent, pale yellow, mobile liquid.

reactant | o-chlorophenylacetic acid | 0.176 mol, 30.0 g | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | o-chlorophenylacetyl chloride | 32.76 g, 99.0% | ClC1=C(C=CC=C1)CC(=O)Cl | C8H6Cl2O
